US09193693B2
Step 1. Methyl 3-(4-methylpiperazin-1-yl)-2-phenylquinoxaline-6-carboxylate
Methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv) in DMSO (8 mL) and 1-methylpiperazine (90 mg, 0.90 mmol, 2.00 equiv) were stirred for 2 hours at 125° C. in an oil bath in a 20-mL sealed tube. The resulting solution was diluted with 20 ml of DCM/H2O (1:1), extracted with 4×40 mL of DCM, and the organic layers combined. The mixture was dried over Na2SO4, filtered to remove solids, and then concentrated under vacuum, resulting in 200 mg (crude) of methyl 3-(4-methylpiperazin-1-yl)-2-phenylquinoxaline-6-carboxylate as a brown solid.

reactant | Methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 1-methylpiperazine | 0.90 mmol, 90 mg, 2.00 equiv | CN1CCNCC1 | C5H12N2
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | DCM H2O | 20 ml | C(Cl)Cl.O
product | Methyl 3-(4-methylpiperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | CN1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C21H22N4O2
